US08471005B2
A mixture of 4-[1-(4-Amino-3-methoxy-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester (0.62 g, 0.0015 mol), 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.3 g, 0.0009 mol) and Potassium acetate (0.59 g, 0.0060 mol) in N,N-Dimethylformamide (10 mL) was heated at 110° C. for 40 hr. The solvent was evaporated and the residue chromatographed on silica gel prep plates 2× with ethyl acetate-IPA (20-1) giving 4-(1-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-4-yl)-piperazine-1-carboxylic acid benzyl ester as a tan solid (0.51 g, 9%). MP: 75-76° C.; 1H-NMR (DMSO-d6, 400 MHz) δ 8.80 (s, 1H), 7.84-7.81 (d, 1H, J=8.40 Hz), 7.48 (s, 1H), 7.45-7.35 (m, 7H), 7.20 (s, 1H), 7.18 (s, 1H), 7.12-7.02 (t, 1H), 6.95-6.89 (q, 2H, J=4.68 Hz), 6.62 (d, 1H), 6.38-6.35 (q, 1H) 5.08 (s, 2H), 3.83 (s, 3H), 3.78 (s, 3H), 3.70-3.65 (d, 2H), 3.39 (br, 8H), 2.70-2.51 (m, 3H), 1.87-1.78 (m, 2H), 1.60-1.52 (m. 2H).

reactant | 4-[1-(4-Amino-3-methoxy-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.0015 mol, 0.62 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)N)OC | C24H32N4O3
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0009 mol, 0.3 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | Potassium acetate | 0.0060 mol, 0.59 g | C(C)(=O)[O-].[K+]
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(1-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-4-yl)-piperazine-1-carboxylic acid benzyl ester | 0.51 g, 9% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC | C37H41N7O4
